US07772221B2
(S)-methyl 2-(methylamino)pent-4-enoate hydrochloride
Step G (1): Thionyl chloride (1.7 g, 14.4 mmol) was added to a round bottom flask charged with a solution of (S)-2-(tert-butoxycarbonyl(methyl)-amino)pent-4-enoic acid (1.66 g, 7.2 mmol) [Tetrahedron (1991), 47(29), pp. 5453-62] in MeOH at 0° C. After complete addition, the reaction mixture was heated at reflux for 2 h, then cooled to rt. The resulting solution was concentrated in vacuo and the residual volatiles were removed on high vacuum overnight to afford 1.32 g (quantitative yield) of the title compound as an off-white solid. LC-MS (M+H)+=143.96; [α]D +3.7 (c=7.57 mg/mL, methanol); 1H NMR (500 MHz, CD3OD) δ ppm 2.71-2.84 (m, 5H) 3.88 (s, 2H) 4.19 (t, J=5.65 Hz, 1H) 4.84 (s, 2H) 5.26-5.38 (m, 1H) 5.68-5.83 (m, 1H).

reactant | Thionyl chloride | 14.4 mmol, 1.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | (S)-2-(tert-butoxycarbonyl(methyl)-amino)pent-4-enoic acid | 7.2 mmol, 1.66 g | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)CC=C)C | C11H19NO4
reactant | MeOH | CO | CH4O
product | (S)-methyl 2-(methylamino)pent-4-enoate hydrochloride | 1.32 g, quantitative yield | Cl.CN[C@H](C(=O)OC)CC=C | InChI=1S/C7H13NO2.ClH/c1-4-5-6(8-2)7(9)10-3;/h4,6,8H,1,5H2,2-3H3;1H/t6-;/m0./s1
